US07262185B2
Under nitrogen atmosphere, to a suspension of aluminum lithium hydride (1.6 g) in THF (100 ml) was added dropwise a solution of ethyl 2-methylimidazo[1,2-a]pyridine-3-carboxylate (8.56 g) in THF (100 ml) at 0° C. under nitrogen atmosphere. The mixture was stirred for 1 hour at 0° C., water (1.6 ml), 15% aqueous solution of sodium hydroxide (1.6 ml) and water (4.8 ml) were sequentially and slowly added dropwise to the solution, and the mixture was stirred for 2 hours at room temperature. To the reaction solution was added magnesium sulfate, and the precipitates were removed by filtration. The mixture was concentrated under reduced pressure, to give 2-methylimidazo[1,2-a]pyridine-3-methanol (6.45 g) as pale yellow amorphous. A mixture of 2-methylimidazo[1,2-a]pyridine-3-methanol (1 g) and 4-aminothiophenol (0.65 g) in concentrated hydrochloric acid (10 ml) was stirred for 18 hours at room temperature. 8N aqueous solution of sodium hydroxide was added to adjust pH to 10 at 0° C. and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was separated and purified by column chromatography (ethanol:ethyl acetate 1:4), to give 3-(4-aminophenylthiomethyl)-2-methylimidazo[1,2-a]pyridine (311 mg) as colorless crystals.

reactant | 2-methylimidazo[1,2-a]pyridine-3-methanol | 1 g | CC=1N=C2N(C=CC=C2)C1CO | C9H10N2O
reactant | 4-aminothiophenol | 0.65 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-(4-aminophenylthiomethyl)-2-methylimidazo[1,2-a]pyridine | 311 mg | NC1=CC=C(C=C1)SCC1=C(N=C2N1C=CC=C2)C | C15H15N3S
